US05767268
A solution of 1.0 g of (naphthalene-2,6-dicarboxylic acid bis- [(benzyl 3,4,6-tri-O-acetyl-2-desoxy-α-D-glucopyranosid-2-yl)-amide] in 20 ml of methanol and 20 ml of dioxan was stirred at room temperature for 18 hours with ml of a 0.3M sodium methanolate solution. The resulting precipitate was washed with methanol, dioxan and ether, dried and gave naphthalene-2,6-dicarboxylic acid bis-[(benzyl 2-desoxy-α-D-glucopyranosid-2-yl)-amide], MS: m/z 717.2 ([M-H]-).

reactant | naphthalene-2,6-dicarboxylic acid bis- [(benzyl 3,4,6-tri-O-acetyl-2-desoxy-α-D-glucopyranosid-2-yl)-amide] | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)NC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)N[C@H]1[C@@](O)(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)CC1=CC=CC=C1 | C50H54N2O18
reactant | sodium methanolate | 0.3M | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | naphthalene-2,6-dicarboxylic acid bis-[(benzyl 2-desoxy-α-D-glucopyranosid-2-yl)-amide] | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)N[C@H]1[C@@](O)(O[C@@H]([C@H]([C@@H]1O)O)CO)CC1=CC=CC=C1 | C38H42N2O12
